US06384072B1
To a solution of oxalyl chloride (0.052 ml) in CH2Cl2 (10 ml) was added a solution of DMSO (0.084 ml) in CH2Cl2 (0.5 ml) keeping the temperature below −55° C. The mixture was stirred for 20 minutes. After addition of a solution of ethyl {[(6RS,7RS)-6-(N,N-diphenylcarbamoyloxy)methyl-6,7-dihydroxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-1-yl]oxy}acetate (150 mg) in CH2Cl2 (3 ml) at the same temperature, the mixture was stirred for 30 minutes. After addition of Et3N (0.33 ml), the mixture was warmed to room temperature over 30 minutes. After stirring for 1 hour at the same temperature, the mixture was diluted with EtOAc, washed with 1N-hydrochloric acid, water, saturated sodium hydrogencarbonate solution, water, and then brine. It was dried over magnesium sulfate and then evaporated. The residue was purified by silica gel column chromatography (hexane-EtOAc 5:2) to give ethyl {[6-(N,N-diphenylcarbamoyloxy)methyl-6-hydroxy-7-oxo-6,7,8,9-tetrahydro-5H-benzocyclohepten-1-yl]oxy}acetate (97.2 mg) as a solid.

reactant | oxalyl chloride | 0.052 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 0.084 ml | CS(=O)C | C2H6OS
reactant | ethyl {[(6RS,7RS)-6-(N,N-diphenylcarbamoyloxy)methyl-6,7-dihydroxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-1-yl]oxy}acetate | 150 mg | C1(=CC=CC=C1)N(C(=O)OCC1(CC2=C(CCC1O)C(=CC=C2)OCC(=O)OCC)O)C2=CC=CC=C2 | C29H31NO7
reactant | Et3N | 0.33 ml | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.5 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | ethyl {[6-(N,N-diphenylcarbamoyloxy)methyl-6-hydroxy-7-oxo-6,7,8,9-tetrahydro-5H-benzocyclohepten-1-yl]oxy}acetate | 97.2 mg | C1(=CC=CC=C1)N(C(=O)OCC1(CC2=C(CCC1=O)C(=CC=C2)OCC(=O)OCC)O)C2=CC=CC=C2 | C29H29NO7
